US05773437
(1) 3-(3-Oxo-3-phenylpropyl)-1H-2,3-benzothiazin-4(3H)-one 2,2-Dioxide
1H-2,3-Benzothiazin-4(3H)-one 2,2-dioxide (1 g, 5.08 mmol.) was added to a solution of powdery potassium hydroxide (334 mg, 5.08 mmol.) in methanol (4 mL). The mixture was then stirred at room temperature for 15 min. The solution was placed under reduced pressure to distill the solvent off to dryness. To the dried product were added 3-chloropropiophenone (856 mg, 5.08 mmol.) and dimethylformamide (8 mL). The mixture was heated to 120° C. for 6 hours under stirring. The reaction liquid was placed under reduced pressure to distill the solvent off. To the resulting residue was added water, and it was extracted with ethyl acetate. The extract solution was washed with an aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The dried extract solution was placed under reduced pressure to distill the solvent off. The resulting oil was treated by silica gel column chromatography (chloroform) to give the desired compound (1.13 g, yield 68%) as a white solid.

reactant | 1H-2,3-Benzothiazin-4(3H)-one 2,2-dioxide | 5.08 mmol, 1 g | C1S(NC(C2=C1C=CC=C2)=O)(=O)=O | C8H7NO3S
reactant | potassium hydroxide | 5.08 mmol, 334 mg | [OH-].[K+]
reactant | 3-chloropropiophenone | 5.08 mmol, 856 mg | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | methanol | 4 mL | CO | CH4O
product | 3-(3-Oxo-3-phenylpropyl)-1H-2,3-benzothiazin-4(3H)-one 2,2-Dioxide | 1.13 g, yield 68% | O=C(CCN1S(CC2=C(C1=O)C=CC=C2)(=O)=O)C2=CC=CC=C2 | C17H15NO4S
